US06734180B1
To a solution of 2-(tert-butoxycarbonylamino)-5-hydroxyindan (270 mg, 1.1 mmol) in pyridine (0.5 ml) was added trifluoromethanesulfonic anhydride (360 mg, 1.3 mmol) under ice cooling, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was diluted with ethyl acetate, and the organic layer was washed with an aqueous solution of saturated potassium hydrogensulfate, brine, an aqueous solution of saturated sodium hydrogencarbonate, and then was dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was purified by silica gel chromatography (hexane:ethyl acetate=4:1) to obtain 2-(tert-butoxycarbonylamino)-5-trifluoromethanesulfonyloxyindan (320 mg, 0.84 mmol) having the following physical properties:

reactant | 2-(tert-butoxycarbonylamino)-5-hydroxyindan | 1.1 mmol, 270 mg | C(C)(C)(C)OC(=O)NC1CC2=CC=C(C=C2C1)O | C14H19NO3
reactant | trifluoromethanesulfonic anhydride | 1.3 mmol, 360 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(tert-butoxycarbonylamino)-5-trifluoromethanesulfonyloxyindan | 0.84 mmol, 320 mg | C(C)(C)(C)OC(=O)NC1CC2=CC=C(C=C2C1)OS(=O)(=O)C(F)(F)F | C15H18F3NO5S
